US06894050B2
Preparation of Intermediate (6-Chloro-pyrazin-2-yl)-(3-fluoro-benzyl)-carbamic acid tert-butyl ester (I-4b)
A solution of (3-fluoro-benzyl)-carbamic acid tert-butyl ester I-4a (1.21 g, 5.37 mmol) in DMF (50 mL) was treated with 60% NaH in mineral oil (430 mg, 10.7 mmol). The resulting mixture was stirred at ambient temperature until the gas evolution ceased. The solution was treated with 2,6-dichloro-pyrazine (800 mg, 5.37 mmol) and the reaction mixture was heated to 80° C. under N2 and stirred for 5 h. The reaction was cooled and concentrated in vacuo to approximately ⅓ volume. The reaction mixture was poured into H2O (50 mL) and extracted with Ethyl Acetate (1×200 mL). The organic layer was washed with H2O (4×50 mL), brine, dried (Na2SO4), and concentrated to dryness. The crude product was purified by chromatography (EtOAc/Hex 5:95) to afford the title compound I-4b (1.14 g) as a colorless oil.

reactant | (3-fluoro-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC(=CC=C1)F)=O | C12H16FNO2
reactant | NaH | [H-].[Na+]
reactant | 2,6-dichloro-pyrazine | 5.37 mmol, 800 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (6-Chloro-pyrazin-2-yl)-(3-fluoro-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)F)C1=NC(=CN=C1)Cl)=O | C16H17ClFN3O2
